simulator lang=spectre
global 0

ahdl_include "dut_buggy.va"

Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 delay=10n rise=200p fall=200p width=5n period=20n
Vrst (rst 0) vsource type=pwl wave=[0 0.9 15n 0.9 16n 0 220n 0]
Vsig (comp 0) vsource type=pwl wave=[0 0.9 90n 0.9 91n 0 160n 0 161n 0.9 220n 0.9]

XDUT (clk rst comp trim) offset_calibration_fsm

tran tran stop=220n maxstep=500p
save clk rst comp trim
